data/oMe_Silver.jsonl
{"reaction_id": "NR-119_1-C(C)(C)C","name": "Jones Oxidation","level": "medium","reactants_smiles": ["C(C(C)(C)C)O","O=[Cr](=O)=O"],"products_smiles": ["C(C(C)(C)C)(=O)O"],"conditions": "H2SO4, Acetone, H2O","mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "O=[Cr](=O)(O)O","rationale": "In acidic medium, CrO3 is protonated to form chromic acid, increasing its electrophilicity and enabling subsequent ester formation with the alcohol."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(C)(C)C)[OH+][Cr]([O-])(=O)(O)O","rationale": "The alcohol oxygen attacks the electrophilic chromium center, favored by Cr(VI)'s strong electron-withdrawing oxo ligands, forming a chromate ester."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)O[Cr]([O-])(=O)(O)O","rationale": "Proton transfer from the oxonium oxygen to a basic site on the chromate stabilizes the ester and prepares for β-hydride elimination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)(C)C)C=O","rationale": "Elimination occurs as the α-hydrogen is removed and electrons shift to form the carbonyl, driven by the good leaving ability of reduced chromium species."},{"step": 5,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(C)(C)C)C([O-])[OH2+]","rationale": "The aldehyde undergoes nucleophilic addition of water under acidic conditions, favored by the carbonyl's electrophilicity and proton activation."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)C(O)O","rationale": "Proton transfer converts the oxonium intermediate into a neutral geminal diol, stabilizing the hydrate form."},{"step": 7,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(C)(C)C)(O)[OH+][Cr]([O-])(=O)(O)O","rationale": "One hydroxyl group of the hydrate attacks electrophilic Cr(VI), forming a second chromate ester, driven by strong Cr–O bond formation."},{"step": 8,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(O)O[Cr]([O-])(=O)(O)O","rationale": "Proton transfer within the ester intermediate increases the leaving group ability of the chromium-containing moiety."},{"step": 9,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)(C)C)(=O)O","rationale": "Elimination of the chromium species forms the carboxylic acid, favored by the stability of the C=O bond and the reduced chromium byproduct."}],"description": "In Jones oxidation, primary alcohols are oxidized to carboxylic acids via chromic acid in acidic aqueous acetone. The alcohol first forms a chromate ester, which undergoes elimination to an aldehyde, then hydrates and oxidizes again to the acid. Acidic conditions facilitate proton transfers and stabilize intermediates, while Cr(VI) acts as a strong electrophile and oxidant."}
